US07893056B2
1,1-Dimethylethyl 2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)hydrazinecarboxylate
2,4,6-Trichloro-5-fluoropyrimidine (20.92 g, 104.1 mmol) was dissolved in THF (300 mL) at room temperature and stirred. To this stirring solution was added t-butyl carbazate (13.74 g, 104.1 mmol), followed by diisopropylethylamine (19.0 mL, 109.3 mmol). The reaction mixture turned light yellow, and after several minutes a precipitate formed. The reaction appeared complete after 1.5 h, as monitored by TLC (10% EtOAc/Hex). The reaction mixture was concentrated in vacuo to remove most of the THF, and the residue was dissolved in CH2Cl2 (˜400 mL). The solution was washed with ˜400 mL of sat. aq. NH4Cl. The organics were dried and concentrated to give a pale yellow solid (31.37 g). LCMS: (M+H+2Na-Boc)+: 241.

reactant | 2,4,6-Trichloro-5-fluoropyrimidine | 104.1 mmol, 20.92 g | ClC1=NC(=C(C(=N1)Cl)F)Cl | C4Cl3FN2
reactant | t-butyl carbazate | 104.1 mmol, 13.74 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | diisopropylethylamine | 109.3 mmol, 19.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1,1-Dimethylethyl 2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)hydrazinecarboxylate | 31.37 g | ClC1=NC(=C(C(=N1)NNC(=O)OC(C)(C)C)F)Cl | C9H11Cl2FN4O2
